US07223791B2
To a solution (50 ml) of 1-methylpyrrole (4.44 ml) in tetrahydrofuran was added dropwise t-butyl lithium (1.7 M solution in pentane, 30.0 ml) under an argon atmosphere at −78° C. This mixed solution was heated to room temperature, and a solution (100 ml) of zinc chloride (75.0 g) in tetrahydrofuran was added. This mixture was stirred for 1 hr., and 1-bromo-4-trifluoromethylbenzene (3.50 ml) and tetrakis(triphenylphosphine)palladium (0.722 g) were added. This mixture was stirred overnight under an argon atmosphere, and poured into 0.5 M hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1, volume ratio) to give 1-methyl-2-(4-trifluoromethylphenyl)pyrrole (4.01 g, yield 71%) as a colorless crystalline powder. melting point: 39–40° C.

reactant | 1-methylpyrrole | 50 ml | CN1C=CC=C1 | C5H7N
reactant | t-butyl lithium | 1.7 M, 30.0 ml | C(C)(C)(C)[Li]
reactant | 1-bromo-4-trifluoromethylbenzene | 3.50 ml | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc chloride | 100 ml, 75.0 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.722 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-methyl-2-(4-trifluoromethylphenyl)pyrrole | 4.01 g, yield 71% | CN1C(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C12H10F3N
